Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dya___
 
Attending: ___.
 
Chief Complaint:
Agitation and Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH notable for
dementia, pAFib, and CAD who was brought in to the hospital for
agitation.

The patient was unable to provide the history when interviewed 
by
me due to his limited memory and dementia. History is taken from
the medical record.

ED providers documented that the patient was brought in due to
agitation and confusion. He would eat without remembering that 
he
had just eaten. There may have been recent episodes of diarrhea.
The ED contact the patient's PCP, who recommended admission to
the hospital.

ED nurse spoke with patient's daughter, who reported that the
patient recently moved to assisted living with his wife and
having difficulty adjusting, getting agitated and confused.

The patient was recently evaluated at the ___ for
confusion without any obvious etiology on work up. He followed 
up
with Dr. ___ PCP. With ongoing agitation, he was
prescribed trazodone as needed for agitation.

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY (per medical record):
- Dementia
- Paroxysmal atrial fibrillation
- CAD (mildly aneurysmal LM/LAD with 50% proximal LAD and OM1 
and
occluded RCA with mild inferior ischemia on ETT-MIBI in ___ and
prior failed RCA PCI)
- Hypertension
- Hyperlipidemia
- RBBB
- BPH

 
Social History:
___
Family History:
FAMILY HISTORY:
Reviewed in medical record and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
PHYSICAL EXAMINATION:
VITALS: T 97.6, BP 168/71, HR 69, RR 16, SAT 98% on RA
GENERAL: Alert and in no apparent distress.
EYES: Anicteric, pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4.  JVP elevated ~12 
cm.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
GU: No CVA tenderness.
MSK: Neck supple, moves all extremities.
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented not to place or time, face symmetric, 
gaze
conjugate with EOMI, speech fluent.

Physical exam:
PHYSICAL EXAMINATION:
VITALS: 98.0, BP: 143/85, HR: 76, RR: 18, O2: 97% RA
GENERAL: Alert and in no apparent distress.
EYES: Anicteric, pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.
CV: NS1/S2, irregular 
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
GU: No CVA tenderness.
MSK: Neck supple, moves all extremities.
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented not to place or time, oriented to name
only, face symmetric, gaze conjugate with EOMI, speech fluent.

 
Pertinent Results:
___ 06:00AM BLOOD WBC-5.4 RBC-3.17* Hgb-10.6* Hct-30.3* 
MCV-96 MCH-33.4* MCHC-35.0 RDW-14.3 RDWSD-49.7* Plt ___
___ 09:42AM BLOOD WBC-5.3 RBC-3.21* Hgb-10.5* Hct-30.8* 
MCV-96 MCH-32.7* MCHC-34.1 RDW-14.6 RDWSD-51.2* Plt ___
___ 10:50AM BLOOD WBC-5.7 RBC-3.30* Hgb-11.1* Hct-31.6* 
MCV-96 MCH-33.6* MCHC-35.1 RDW-14.6 RDWSD-51.4* Plt ___
___ 05:30PM BLOOD WBC-5.4 RBC-3.29* Hgb-10.9* Hct-32.5* 
MCV-99* MCH-33.1* MCHC-33.5 RDW-14.8 RDWSD-54.0* Plt ___
___ 05:30PM BLOOD Neuts-59.7 ___ Monos-13.8* 
Eos-3.7 Baso-0.7 Im ___ AbsNeut-3.21# AbsLymp-1.18* 
AbsMono-0.74 AbsEos-0.20 AbsBaso-0.04
___ 06:00AM BLOOD Plt ___
___ 09:42AM BLOOD Plt ___
___ 10:50AM BLOOD Plt ___
___ 10:50AM BLOOD ___ PTT-27.1 ___
___ 06:30PM BLOOD ___ PTT-27.0 ___
___ 05:30PM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-76 UreaN-25* Creat-1.0 Na-138 
K-4.2 Cl-101 HCO3-22 AnGap-15
___ 09:42AM BLOOD Glucose-119* UreaN-25* Creat-1.0 Na-142 
K-4.2 Cl-102 HCO3-20* AnGap-20*
___ 10:50AM BLOOD Glucose-106* UreaN-18 Creat-1.0 Na-145 
K-4.1 Cl-104 HCO3-23 AnGap-18*
___ 05:30PM BLOOD Glucose-109* UreaN-20 Creat-1.2 Na-136 
K-5.9* Cl-102 HCO3-19* AnGap-15
___ 05:30PM BLOOD ALT-21 AST-63* AlkPhos-39* TotBili-0.4
___ 06:00AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.0
___ 09:42AM BLOOD Calcium-8.5 Phos-3.0 Mg-1.9
___ 10:50AM BLOOD VitB12-566
___ 10:50AM BLOOD Triglyc-55 HDL-69 CHOL/HD-2.0 LDLcalc-61
___ 05:30PM BLOOD TSH-3.7
___ 06:34PM BLOOD K-4.0
___ 05:41PM BLOOD Lactate-1.8

CHEST (PA & LAT) Study Date of ___ 5:00 ___
IMPRESSION:
No acute intrathoracic process.

CT HEAD W/O CONTRAST Study Date of ___ 8:38 ___
IMPRESSION:
Some patient motion makes the examination is slightly 
suboptimal.
Given this, no evidence of acute intracranial hemorrhage is 
seen.

___ 2:30 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH

___ 2:44 pm STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 

___ 2:44 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
___ 10:50 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 5:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 02:30AM URINE Color-Straw Appear-Clear Sp ___
___ 05:45PM URINE Color-Straw Appear-Clear Sp ___
___ 02:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ male with a PMH notable for
dementia, pAFib, and CAD who was brought in to the hospital for
agitation with recent placement in assisted living and over the
past two months has been noted to have acute decline in
memory/orientation. He was discharged back to his facility and 
started on Lexapro daily and Seroquel prn. His diarrhea resolved 
on discharge. He was evaluated by geriatrics while hospitalized 
and will need follow-up with PCP and psychiatry as an 
outpatient. 

ACUTE/ACTIVE PROBLEMS:
# Dementia
# Encephalopathy
Given the patient's recent move to a different living facility,
he is likely having difficulty adjusting. There was no initial
evidence of infection, trauma, or significant metabolic
disturbance to otherwise explain acute encephalopathy. His urine 
culture resulted in being positive for Kliebsiella with a 
negative UA, he was started on Ceftriaxone 1 gm IV and 
transitioned to Cefpodoxime on discharge. 
- Per patient's daughter, patient has declined over the past ___
months and prior to this was taking care of his wife who was now
in a short term memory unit. He had occasional short term memory
loss over the past 6 months. 
- D/C Mirtazapine per geriatrics, d/c trazodone
- Started Lexapro on ___, 12.5 mg qhs Seroquel prn agitation 
- TSH and B12 wnl, RPR negative
- Per daughter, have requested geriatrics/psychiatry to see
patient given acute decline, appreciate recommendation
- possible UTI, have started on Ceftriaxone 1 gm q24 on ___,
will continue antibiotics for 7 days, repeat UA/UC given UA was
negative, discharged on 5 additional days of Cefpodoxime.
- Discussed with daughter given hx of afib, he may have had an
neurological event in the past, daughter does not want to
evaluate further with MRI. Discussed with geriatrics, will not
change management at this point. 
-Per geriatrics, he was calm and attentive, which is 
inconsistent with a diagnosis of
delirium. Rather, it seems more that he has developed some
behavioral disturbance as part of his dementia. His persecutory
delusions, and recent low mood also raise the possibility of
depression as well. 
- Continue escitalopram 10mg Daily
- Continue  Quetiapine 12.5mg QHS PRN Agitation 

# Diarrhea
- Monitor for ongoing diarrhea given report of it at assisted
living
- Check cdiff, stool cultures
- Can use prn Imodium if needed 

# Atrial Fibrillation
Currently in atrial fibrillation. Previously known to have 
paroxysmal AFib, now
unclear if permanent. Last saw cardiologist in ___ and at that
time, patient was to discuss anticoagulation with PCP. Daughter
stated she was present for appointment with his cardiologist and
at the time of discussion of anticoagulation, the patient had
stated he did not want anticoagulation. She understood the risks
of not being anticoagulated. 
- Follows with cardiology as outpatient, Dr. ___ 

#QTC monitoring
-QTC on discharge was 467. Will need follow-up ECG for QTC 
monitoring at PCP appointment next week or when he is next seen 
given new initiation of Lexapro.

CHRONIC/STABLE PROBLEMS:
# BPH
- Continue home Tamsulosin 0.4 mg PO QHS 

# CAD
# Hypertension
- Continue home Simvastatin 40 mg PO QPM 
- Continue home Atenolol 50 mg PO DAILY 
- Continue home Aspirin 81 mg PO DAILY 
- Continue home Clopidogrel 75 mg PO DAILY 
- Continue home Lisinopril 40 mg PO DAILY 

# Contacts/HCP/Surrogate and Communication: Daughter, ___: ___
# Code Status/ACP: Healthcare proxy: ___ DNR/DNI

Transitional issues:
-Follow-up with PCP and psychiatry as outpatient
-Follow-up with neurology, daughter will schedule appointment 
after discussion with PCP 
-___ with cardiology as an outpatient

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TraZODone 25 mg PO Q6H:PRN agitation 
2. Ketoconazole 2%  1 Appl TP DAILY 
3. Mirtazapine 3.75 mg PO QHS 
4. Tamsulosin 0.4 mg PO QHS 
5. Simvastatin 40 mg PO QPM 
6. Lisinopril 40 mg PO DAILY 
7. Atenolol 50 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 100 mg PO Q12H 
RX *cefpodoxime 100 mg 1 tablet(s) by mouth twice daily Disp 
#*10 Tablet Refills:*0 
2.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate [Lexapro] 10 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  QUEtiapine Fumarate 12.5 mg PO QHS:PRN agitation 
RX *quetiapine [Seroquel] 25 mg 0.5 (One half) tablet(s) by 
mouth Take 12.5  tablet at night as needed for agitation Disp 
#*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atenolol 50 mg PO DAILY  
6.  Clopidogrel 75 mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  
8.  Simvastatin 40 mg PO QPM  
9.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection
Delirium 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were hospitalized for confusion and diarrhea. Your diarrhea 
has resolved. You were also seen by geriatrics. You were started 
on new medications during your hospitalization. You will need to 
have your ECGs monitored weekly for now until seen by psychiatry 
on discharge. Your diarrhea was resolved on discharged. You were 
diagnosed with a urinary tract infection as well and continued 
on antibiotics. 

We wish you best wishes in your recovery,
Your ___ team 
 
Followup Instructions:
___